US07601722B2
A solution of -(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.5 g, 1.8 mmol) in dimethylformamide (15 mL) was treated with cesium carbonate (1.2 g, 3 mmol) and cis-1,4-dichloro-2-butene (3.2 mL, 20 mmol) and stirred at 22° C. for 14 h. The reaction mixture was diluted with ethyl ether (100 mL), washed with 2 M hydrochloric acid (100 mL) and concentrated. Flash chromatography (SiO2, 10→50% ethyl acetate/hexanes) provided 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.5 g) as a yellow oil:

reactant | (2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 1.8 mmol, 0.5 g | FC1=C(C=CC(=C1)C)N1S(NC2=C1C=CC=C2)(=O)=O | C13H11FN2O2S
reactant | cesium carbonate | 3 mmol, 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cis-1,4-dichloro-2-butene | 20 mmol, 3.2 mL | ClC\C=C/CCl | C4H6Cl2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.5 g | ClC\C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)C)F)(=O)=O | C17H16ClFN2O2S
